US04381301
2.0 g of 4-chloroacetyl-9,10-dihydro-4H-thieno[3,4-b][1,5]benzodiazepin-10-one, 6 ml of 40% strength aqueous dimethylamine solution and 10 ml of methylene chloride are stirred at 35° C. for 2 hours; 0.35 g of sodium carbonate is added, and the mixture is concentrated to dryness in vacuo. A little water is added; the solution is extracted repeatedly by shaking it with chloroform, and the organic solution is dried with sodium sulfate and concentrated to dryness. 1.9 g of 4-(dimethylaminoacetyl)-9,10-dihydro-4H-thieno[3,4-b][1,5]benzodiazepin-10-one are thus obtained. 4-(Diethylaminoacetyl)-9,10-dihydro-3-methyl-4H-thieno[3,4-b][1,5]benzodiazepin-10-one [m. 196°-197° C. (from toluene)] is obtained analogously by reacting 4-chloroacetyl-9,10-dihydro-3-methyl-4H-thieno[3,4-b][1,5]benzodiazepin-10-one with a corresponding amount of diethylamine (instead of dimethylamine).

reactant | 4-chloroacetyl-9,10-dihydro-4H-thieno[3,4-b][1,5]benzodiazepin-10-one | 2.0 g | ClCC(=O)N1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2 | C13H9ClN2O2S
reactant | dimethylamine | CNC | C2H7N
reactant | sodium carbonate | 0.35 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-(dimethylaminoacetyl)-9,10-dihydro-4H-thieno[3,4-b][1,5]benzodiazepin-10-one | 1.9 g | CN(C)CC(=O)N1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2 | C15H15N3O2S
